US07473790B2
Step 2: Preparation of compound 5-Bromo-1-chloro-3-ethyl-2-methoxy-benzene
Potassium carbonate (3.9 g, 28 mmol) followed by methyl iodide (0.58 mL, 9.3 mmol) were added to a solution of 4-bromo-2-chloro-6-ethyl-phenol (2.2 g, 9.3 mmol) in DMF (10 mL). The mixture was stirred for 20 hours and then partitioned between 1N HCl and EtOAc. The organic layers were washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated. The crude yellow oil was purified by flash column chromatography (0% to 3% EtOAc in hexanes) to give the desired product (2.1 g, 91%) 1H NMR (400 MHz, CDCl3): δ 1.22 (t, J=7.6 Hz, 3H), 2.66 (q, J=7.6 Hz, 2H), 3.82 (s, 3H), 7.22 (s, 1H), 7.37 (s, 1H).

reactant | Potassium carbonate | 28 mmol, 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 9.3 mmol, 0.58 mL | CI | CH3I
reactant | 4-bromo-2-chloro-6-ethyl-phenol | 9.3 mmol, 2.2 g | BrC1=CC(=C(C(=C1)CC)O)Cl | C8H8BrClO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1-chloro-3-ethyl-2-methoxy-benzene | 2.1 g, 91% | BrC=1C=C(C(=C(C1)Cl)OC)CC | C9H10BrClO
